US04599205
(a) 1-Hexadecyloxy-3-methylamino-propan-2-ol
A cooled mixture of 15.5 g of methylamine, 50 cc. of tetrahydrofurane and 15 g of hexadecyl-2.3-epoxypropylether is heated to 60° C. for 2 hours in an autoclave, cooled and evaporated in a vacuo. The residue is purified by column chromatography (silicic acid gel//chloroform/methanol).

reactant | methylamine | 15.5 g | CN | CH5N
reactant | hexadecyl-2.3-epoxypropylether | 15 g | C(CCCCCCCCCCCCCCC)C1C(COCC2C(CCCCCCCCCCCCCCCC)O2)O1 | C38H74O3
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 1-Hexadecyloxy-3-methylamino-propan-2-ol | C(CCCCCCCCCCCCCCC)OCC(CNC)O | C20H43NO2
